** sch_path: /foss/designs/ttgf-analog-openschnapp/xschem/ip_amplifier.sch
.subckt ip_amplifier VDD OUTP INP INN VSUBS
*.PININFO VDD:B VSUBS:B INP:I INN:I OUTP:O
XM4 TCOM TCOM VDD VDD pfet_06v0 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM3 net1 TCOM VDD VDD pfet_06v0 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=5
XM1 OUTN INP SRCP VDD pfet_06v0 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=7
XM2 OUTP INN SRCN VDD pfet_06v0 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=7
XR19 net4 TCOM VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=5e-6
XR5 net3 net4 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=5e-6
XR4 net6 net7 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR2 net5 net6 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR8 VSUBS net5 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR12 net7 net8 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR11 net8 net9 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR10 net9 OUTN VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR13 net14 OUTP VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR3 net13 net14 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR14 net12 net13 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR15 VSUBS net10 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR16 net10 net11 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR17 net11 net12 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=6e-6
XR9 SRCN net1 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=4.5e-6
XR1 SRCP net1 VSUBS ppolyf_u_1k_6p0 r_width=2e-6 r_length=1e-6
XR6 net2 net3 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=5e-6
XR7 VSUBS net2 VSUBS ppolyf_u_1k_6p0 r_width=1e-6 r_length=5e-6
.ends
